US04129556
84.6 g of a bisazomethine prepared from 2 moles of salicylaldehyde and 1 mol of propylenediamine and having a melting point of 57°-58° C. are hydrogenated for 3 hours in 340 ml of isopropanol in an autoclave in the presence of 1.20 g of 5% platinum/charcoal at 45° C. and under a pressure of 50-60 atmospheres. The product crystallises out at room temperature and is dissolved by boiling, with the addition of a further 660 ml of isopropanol. The catalyst is filtered off and the diamine crystallises out on cooling. The crystals are collected by filtration, washed and dried, yielding 75.1 g of N,N'-bis-(2-hydroxybenzyl)-propylenediamine (87.5% of theory); melting point 109°-110° C.

reactant | salicylaldehyde | 2 moles | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | propylenediamine | 1 mol | C(C(C)N)N | C3H10N2
solvent | isopropanol | 340 ml | C(C)(C)O | C3H8O
catalyst | platinum/charcoal | 1.20 g | [Pt] | Pt
product | N,N'-bis-(2-hydroxybenzyl)-propylenediamine | 75.1 g, 87.5% | OC1=C(CNCC(C)NCC2=C(C=CC=C2)O)C=CC=C1 | C17H22N2O2
